US04244957
Preparation of 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine
1.0 g. of 1-benzyloxy-2-[(2,6-dichlorophenyl)-imino]imidazolidine is dissolved in 10 ml. of methylene chloride, and 1 ml. of boron tribromide is added carefully at room temperature. After 1 hour, the solution is evaporated in vacuo. The residue is dissolved in water and the solution is adjusted to pH 10 with caustic soda solution and extracted, first with methylene chloride and then with ethyl acetate. The organic extracts are dried over sodium sulfate and evaporated in vacuo. The residue is recrystallized from acetonitrile, whereupon 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine, m.p. 211° (decomp.), is obtained.

reactant | 1-benzyloxy-2-[(2,6-dichlorophenyl)-imino]imidazolidine | C(C1=CC=CC=C1)ON1C(NCC1)=NC1=C(C=CC=C1Cl)Cl | C16H15Cl2N3O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O | C9H9Cl2N3O
